US20010006962A1
3-Elaidoyl-1,3-thiazolidine-2-thione
A mixture of elaidic acid (2.0 g, 7.1 mmol), DMAP (86 mg, 0.7 mmol), 1,3-thiazolidine-2-thione (1.0 g, 8.4 mmol) and DCC (1.7 g, 8.2 mmol) in dichloromethane (20 ml) was stirred under N2 at 0°C. for 1 hour and then at ambient temperature for another 5 hours. Additional DCC (41 mg, 0.2 mmol) was added, and the reaction was stirred at the same temperature for 2 hours. Work up followed by flash chromatography (SiO2; carbon tetrachloride-chloroform 1:0, 1:1, 0:1) gave 2.56 g (94%) of the title compound as a yellow waxy solid.

reactant | elaidic acid | 7.1 mmol, 2.0 g | C(CCCCCCC\C=C\CCCCCCCC)(=O)O | C18H34O2
reactant | 1,3-thiazolidine-2-thione | 8.4 mmol, 1.0 g | S1C(NCC1)=S | C3H5NS2
reactant | DCC | 8.2 mmol, 1.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | carbon tetrachloride chloroform | C(Cl)(Cl)(Cl)Cl.C(Cl)(Cl)Cl
catalyst | DMAP | 0.7 mmol, 86 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | DCC | 0.2 mmol, 41 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | 3-Elaidoyl-1,3-thiazolidine-2-thione | 2.56 g, 94% | C(CCCCCCC\C=C\CCCCCCCC)(=O)N1C(SCC1)=S | C21H37NOS2
